US04515799
2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide
A mixture of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}-acetamide (6.8 g) and Lawesson's reagent (6.4 g) in acetonitrile (300 ml) was stirred at room temperature for 2.5 hours, filtered and evaporated. The residue was purified by chromatography on silica (80 g) using dichloromethane plus 0-10% v/v ethyl acetate as eluant. Appropriate fractions were combined and evaporated and the residual oil triturated with diethyl ether. The resulting solid was collected, washed with diethyl ether and dried to give the title compound (5.9 g), m.p. 149°-150° C.

reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}-acetamide | 6.8 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)N)C(=O)OCC | C20H23ClN2O6
reactant | Lawesson's reagent | 6.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide | 5.9 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=S)N)C(=O)OCC | C20H23ClN2O5S
